US04469698
(2) 3-isopropyl-6-chlorouracil
350 ml of phosphorus oxychloride containing 15 ml of water are slowly run into 75 g (0.44 mole) of 1-isopropyl barbituric acid. After the violent exothermic reaction has abated, the reaction mixture is refluxed for 1 hour. The excess POCl3 is removed by evaporation in vacuo and the oily residue is poured onto ice, giving a precipitate which is filtered, washed with ice water and dried. 55 g of yellowish crystals are thus obtained.

reactant | phosphorus oxychloride | 350 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-isopropyl barbituric acid | 0.44 mole, 75 g | C(C)(C)N1C(=O)NC(=O)CC1=O | C7H10N2O3
solvent | water | O | H2O
product | 3-isopropyl-6-chlorouracil | 55 g | C(C)(C)N1C(NC(=CC1=O)Cl)=O | C7H9ClN2O2
